US05559141
c) 4-[4,4-bis(4-cyanophenyl)butyl]-1H-imidazole
1-benzyl-5-[4,4-bis(4-cyanophenyl)-3-butenyl]-1H-imidazole hydrochloride is hydrogenated in ethanol using 10% Pd/C as a catalyst to give the product.

reactant | 1-benzyl-5-[4,4-bis(4-cyanophenyl)-3-butenyl]-1H-imidazole hydrochloride | Cl.C(C1=CC=CC=C1)N1C=NC=C1CCC=C(C1=CC=C(C=C1)C#N)C1=CC=C(C=C1)C#N
catalyst | ethanol | C(C)O | C2H6O
product | 4-[4,4-bis(4-cyanophenyl)butyl]-1H-imidazole | C(#N)C1=CC=C(C=C1)C(CCCC=1N=CNC1)C1=CC=C(C=C1)C#N | C21H18N4
